US07943669B2
Step A: {4-[3-Cyclohexylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
[4-(3-Bromo-5-cyclohexylmethoxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate (0.1 g; 0.203 mmol), 1-Ethynyl-4-methanesulfonyl-benzene (0.109 g; 0.61 mmol), bis(triphenylphosphine)palladium (II) chloride (11.4 mg; 0.016 mmol) and copper iodide (2.3 mg; 0.06 mmol) were dissolved in a mixture of triethylamine (2 mL) and DMF (2 mL) under an atmosphere of nitrogen. The reaction mixture was reacted in a microwave oven at 120° C. for 1 h. Water and dichloromethane was added to the reaction mixture and the phases were separated and washed with water. The organic phase was dried and evaporated to dryness. The crude product was purified by prep. HPLC (Method A). Yield: 90 mg. HPLC-MS: m/z: 593.5 (M+H)+; Rt: 3.04 min.

reactant | [4-(3-Bromo-5-cyclohexylmethoxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate | 0.203 mmol, 0.1 g | C(C)OC(C)=O.BrC=1C=C(C=C(C1)OCC1CCCCC1)SC1=CC(=C(OCC(=O)O)C=C1)C
reactant | 1-Ethynyl-4-methanesulfonyl-benzene | 0.61 mmol, 0.109 g | C(#C)C1=CC=C(C=C1)S(=O)(=O)C | C9H8O2S
reactant | Water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.016 mmol, 11.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.06 mmol, 2.3 mg | [Cu](I)I
product | {4-[3-Cyclohexylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)S(=O)(=O)C)OCC1CCCCC1)C)=O | C33H36O6S2
